US07112594B2
5-amino-2-(1-benzylpiperidine-4-yloxy)benzonitrile
By the reaction and treatment in the same manner as in Starting Material Synthetic Example 4 using 2-chloro-5-nitrobenzonitrile (10 g) and 1-benzyl-4-hydroxypiperidine (11.5 g), the title compound (7 g) was obtained as an oil.

reactant | 2-chloro-5-nitrobenzonitrile | 10 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 1-benzyl-4-hydroxypiperidine | 11.5 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
product | 5-amino-2-(1-benzylpiperidine-4-yloxy)benzonitrile | 7 g | NC=1C=CC(=C(C#N)C1)OC1CCN(CC1)CC1=CC=CC=C1 | C19H21N3O
